US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.05 g) was reacted with aminoacetonitrile hydrochloride similar to as described in Example 2 to afford 9 mg of N3-(cyanomethyl)-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 412 (M)+. 1H NMR (400 MHz, DMSO) δ 12.03 (t, J=5.3 Hz, 1H), 8.65 (d, J=8.4 Hz, 1H), 8.53 (s, 1H), 8.04 (s, 1H), 7.03 (d, J=10.5 Hz, 1H), 5.47 (s, 1H), 5.07-4.90 (m, 2H), 4.66-4.53 (m, 2H), 4.39 (d, J=5.3 Hz, 2H), 1.50 (s, 6H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.05 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | aminoacetonitrile hydrochloride | Cl.NCC#N
product | N3-(cyanomethyl)-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 9 mg | C(#N)CNC(=O)C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)C#CC(C)(C)O)C(=O)N | C20H18FN5O4
